US08133910B2
5-n-Propyl-thiophene-2-carboxylic acid
The title compound is prepared in analogy to 5-ethyl-thiophene-2-carboxylic acid starting from 2-thiophenecarboxylic acid and 1-iodopropane; LC-MS: tR=0.87 min, 1H NMR (CDCl3): δ 0.99 (t, J=7.0 Hz, 3H), 1.74 (hex, J=7.3 Hz, 2H), 2.83 (t, J=7.6 Hz, 2H), 6.82 (d, J=3.5 Hz, 1H), 7.73 (d, J=3.8 Hz, 1H).

reactant | 5-ethyl-thiophene-2-carboxylic acid | C(C)C1=CC=C(S1)C(=O)O | C7H8O2S
reactant | 2-thiophenecarboxylic acid | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 1-iodopropane | ICCC | C3H7I
product | 5-n-Propyl-thiophene-2-carboxylic acid | C(CC)C1=CC=C(S1)C(=O)O | C8H10O2S
